US04929639
To a solution of (2R,4R,5S)-4-hydroxymethyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane (108 mg) in pyridine (0.5 ml) was added phenyl isocyanate (0.1 ml) and the mixture was stirred at room temperature for 30 minutes. Water (1 ml) was added and extracted with ether and the organic layers were combined and dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo and the crude product was purified with preparative TLC (hexane:ether=1:1) to give (2R,4R,5S)-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-4-phenylcarbamoyloxymethyl-1,3-dioxane (140 mg).

reactant | (2R,4R,5S)-4-hydroxymethyl-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-1,3-dioxane | 108 mg | OC[C@@H]1O[C@@H](OC[C@@H]1C\C=C/CCCC(=O)OC)C | C14H24O5
reactant | phenyl isocyanate | 0.1 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | Water | 1 ml | O | H2O
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | (2R,4R,5S)-5-[(Z)-6-methoxycarbonyl-2-hexenyl]-2-methyl-4-phenylcarbamoyloxymethyl-1,3-dioxane | 140 mg | COC(=O)CCC\C=C/C[C@@H]1[C@@H](O[C@@H](OC1)C)COC(NC1=CC=CC=C1)=O | C21H29NO6
